US05480790
2-Deoxy-2 -methacrylamido-D-glucose (2):
Glucosamine hydrochloride ( 0.06 mol; 13.25 g), sodium carbonate (0.2 mol; 21.2 g) and sodium nitrite (0.2 g) were dissolved under nitrogen atmosphere at 0° C. in 100 ml of H2O. Methacryloyl chloride (0.12 mol; 13.0 g) was added under vigorous stirring. The reaction was carried out similar to the synthesis of 1 and gave the product as a white powder after two recrystallizations from water/ethanol/ether. Yield: 8.3-8.9 g (56-60%), p.m. (decomp.): 198°-199° C.

reactant | Glucosamine hydrochloride | 0.06 mol, 13.25 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | sodium carbonate | 0.2 mol, 21.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium nitrite | 0.2 g | N(=O)[O-].[Na+]
reactant | Methacryloyl chloride | 0.12 mol, 13.0 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | H2O | 100 ml | O | H2O
product | 2-Deoxy-2 -methacrylamido-D-glucose | C(C(=C)C)(=O)N[C@@H](C=O)[C@@H](O)[C@H](O)[C@H](O)CO | C10H17NO6
